US05554607
3-(4-chloro-2-methylphenyl)-1-(prop-2-ynyl)-2-thioxo-imidazolidin-4-one
A mixture of ethyl N-propargylaminoacetate (10.0 g), 4-chloro-2-methylphenylisothiocyanate (12.9 g), triethylamine (7.1 g), and methylene chloride (150 mL) was heated at reflux for 3 hours. The reaction mixture was cooled to ambient temperature, washed with 1 N HCl (100 mL), then with water. The organic layer was dried over anhydrous magnesium sulfate, then evaporated to dryness. The residual oil was triturated with hexane. The solid was collected by filtration. Recrystallization from Hexane-EtOAc afford the title compound (5.2 g) as yellow solid, m.p. 99°-102° C. Anal. Calcd. for. C13H11N2O Cl S: C, 56.01; H, 3.98; N, 10.05. Found: C, 55.61; H, 3.83; N, 10.0. Mass spectrum (EI, M.+) m/z 278.

reactant | ethyl N-propargylaminoacetate | 10.0 g | C(C#C)NCC(=O)OCC | C7H11NO2
reactant | 4-chloro-2-methylphenylisothiocyanate | 12.9 g | ClC1=CC(=C(C=C1)N=C=S)C | C8H6ClNS
reactant | triethylamine | 7.1 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 150 mL | C(Cl)Cl | CH2Cl2
product | 3-(4-chloro-2-methylphenyl)-1-(prop-2-ynyl)-2-thioxo-imidazolidin-4-one | 5.2 g | ClC1=CC(=C(C=C1)N1C(N(CC1=O)CC#C)=S)C | C13H11ClN2OS
